US08871187B2
19.2: 3-Hydroxy-3-(1H-imidazol-4-yl)propanoic acid
3 ml of trifluoroacetic acid are added to a solution of 1.4 g (3 mmol) of tert-butyl 3-hydroxy-3-(1-trityl-1H-imidazol-4-yl)propanoate in 7 ml of dichloromethane. After stirring for 4 hours at ambient temperature, the reaction medium is concentrated. 0.5 g of crude product is used directly in the next stage.

reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 3-hydroxy-3-(1-trityl-1H-imidazol-4-yl)propanoate | 3 mmol, 1.4 g | OC(CC(=O)OC(C)(C)C)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H30N2O3
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 3-Hydroxy-3-(1H-imidazol-4-yl)propanoic acid | OC(CC(=O)O)C=1N=CNC1 | C6H8N2O3
